US04829074
2-Fluorophenol (56.03 g) was dissolved in carbon disulphide (100 ml). A solution of bromine (87.89 g) in carbon disulphide (30 ml) was added dropwise over a period of 5 hours with vigorous stirring. The mixture was allowed to stand overnight at room temperature, then was poured into water (80 ml). A saturated solution of sodium thiosulphate (200 ml) was added and the mixture shaken. The organic layer was separated, washed with saturated sodium bicarbonate solution (100 ml) and water (150 ml). The organic layer was dried over anhydrous sodium sulphate, then was evaporated to leave 2-fluoro-4-bromophenol as an orange oil. This was distilled at about 14 mm Hg pressure. The fractions distilling at 89°-92° C. (65 g 98% pure by g.l.c.) and 92°-96° C. (10 g 97% pure by g.l.c.) were collected.

reactant | 2-Fluorophenol | 56.03 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | bromine | 87.89 g | BrBr | Br2
reactant | water | 80 ml | O | H2O
reactant | sodium thiosulphate | 200 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | carbon disulphide | 100 ml | C(=S)=S | CS2
solvent | carbon disulphide | 30 ml | C(=S)=S | CS2
product | 2-fluoro-4-bromophenol | FC1=C(C=CC(=C1)Br)O | C6H4BrFO
